US07220862B2
(±)-[2-[1,4′]Bipiperidinyl-1′-yl-2-oxo-1-(4-oxo-piperidin-1-ylmethyl)-ethyl]-carbamic acid tert-butyl ester
To a solution of 1-[1,4′]bipiperidinyl-1′-yl-2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propan-1-one (200 mg, 0.37 mmol) in methylene chloride (4 mL) was added Dess-Martin periodinane (316 mg, 2 equiv) in two portions. After 1 h, the reaction was quenched by the addition of saturated sodium bicarbonate, and extracted into methylene chloride (3×). The combined organic phases were washed with brine, dried over magnesium sulfate, and concentrated to give 187 mg (94%) which was used without purification. Mass spec.: 437.63 (MH)+.

reactant | 1-[1,4′]bipiperidinyl-1′-yl-2-(di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propan-1-one | 0.37 mmol, 200 mg | N1(CCCCC1)C1CCN(CC1)C(C(CN1CCC(CC1)O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C28H50N4O6
reactant | Dess-Martin periodinane | 316 mg, 2 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-[2-[1,4′]Bipiperidinyl-1′-yl-2-oxo-1-(4-oxo-piperidin-1-ylmethyl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1CCC(CC1)N1CCCCC1)CN1CCC(CC1)=O)=O | C23H40N4O4
